US04518787
To hexan-1-ol (5.1 g, 0.05 mole) in dichloromethane (50 ml) were added trimethylchlorosilane (1.81 g, 0.0166 mole) and N,N'-bis(trimethylsilyl)ethlenediamine (3.44 g, 0.0166 mole). The mixture was stirred under reflux for 30 minutes, filtered and the solvent removed. The residue, hexanoxytrimethylsilane, was obtained in 59% yield (5.15 g).

reactant | hexan-1-ol | 0.05 mole, 5.1 g | C(CCCCC)O | C6H14O
reactant | trimethylchlorosilane | 0.0166 mole, 1.81 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | N,N'-bis(trimethylsilyl)ethlenediamine | 0.0166 mole, 3.44 g | C[Si](NCCN[Si](C)(C)C)(C)C | C8H24N2Si2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | hexanoxytrimethylsilane | 59% yield | C(CCCCC)O[Si](C)(C)C | C9H22OSi
